US05430042
Preparation of 5-Carbomethoxy-6-methyl-2-[[(4-cyclopropylmethoxy-3-methoxy-2-pyridinyl)methyl]thio]-1H-benzimidazole
To a solution of 5-carbomethoxy-6-methyl-2-mercapto-1H-benzimidazole (0.58 g, 2.6 mmol) in methanol (25 ml) aqueous NaOH (1.0 ml 5M, 5.0 mmol) and 4-cyclopropylmethoxy-3-methoxy-2-chloromethyl pyridine hydrochloride (prepared according to processes known per se.) (0.63 g, 2.4 mmol) dissolved in methanol (25 ml were added in the given order. The mixture was refluxed for one hour whereupon the solution was evaporated. The residue was partitioned between methylene chloride and water. After separation the organic solution was dried over Na2SO4 and evaporated giving a yellow syrup (1.0 g, 100%).

reactant | 5-carbomethoxy-6-methyl-2-mercapto-1H-benzimidazole | 2.6 mmol, 0.58 g | C(=O)(OC)C1=CC2=C(NC(=N2)S)C=C1C | C10H10N2O2S
reactant | 4-cyclopropylmethoxy-3-methoxy-2-chloromethyl pyridine hydrochloride | 2.4 mmol, 0.63 g | Cl.C1(CC1)COC1=C(C(=NC=C1)CCl)OC
solvent | methanol | CO | CH4O
solvent | methanol | 5.0 mmol, 5M, 25 ml | CO | CH4O
product | 5-Carbomethoxy-6-methyl-2-[[(4-cyclopropylmethoxy-3-methoxy-2-pyridinyl)methyl]thio]-1H-benzimidazole | 1.0 g, 100% | C(=O)(OC)C1=CC2=C(NC(=N2)SCC2=NC=CC(=C2OC)OCC2CC2)C=C1C | C21H23N3O4S
